datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[C:15]([O:16])([H:17])([H:18])[H:19]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:10][O:16][C:15]([H:17])([H:18])[H:19],36.020056
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([C:28]([C:29]([H:39])([H:40])[H:41])[c:30]1[c:31]([H:42])[c:32]([H:43])[c:33]([H:44])[c:34]([H:45])[c:35]1[H:46])([H:36])([H:37])[H:38]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:28]([C:27]([H:36])([H:37])[H:38])([C:29]([H:39])([H:40])[H:41])[c:30]1[c:31]([H:42])[c:32]([H:43])[c:33]([H:44])[c:34]([H:45])[c:35]1[H:46])[H:15])([H:13])[H:14],33.6394
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6]>>[C:0]([H:4])([H:5])([H:6])[H:7].[O:1]=[C:2]=[O:3],349.832608
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7]=[S:8])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7]([C:6]([H:9])([H:10])[H:11])=[S:8],53.0113
[C:0](=[C:1]=[O:2])([H:3])[H:4].[O:5]([H:6])[H:7]>>[C:0]([C:1](=[O:2])[O:5][H:7])([H:3])([H:4])[H:6],164.85
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](#[C:10][C:11]([H:13])[H:14])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10]#[C:9][H:12])([H:13])[H:14],77.1111
[C:8](=[C:9]([H:11])[H:12])[H:10].[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4]>>[H:5][C:8](=[C:9]([H:11])[H:12])[H:10].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],-10.46
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([c:16]1[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]1[H:31])([H:25])[H:26])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:25])[H:7])([H:5])[H:6].[C:14]([C:15]([c:16]1[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]1[H:31])[H:26])([H:22])([H:23])[H:24],51.4632
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([C:28](=[C:29]([H:33])[H:34])[H:32])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:27]([C:28](=[C:29]([H:33])[H:34])[H:32])([H:30])[H:31])[H:15])([H:13])[H:14],48.5344
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[H:10]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:10])[H:6],15.3134
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12](=[C:13]([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:12](=[C:13]([H:15])[H:16])[H:14])[H:6],19.4556
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10]([C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])([H:4])[C:10]([C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16],0.0
[O:0][O:1][C:2]([C:3]([O:4][H:11])([C:5]([O:6][O:7][H:14])([H:12])[H:13])[H:10])([H:8])[H:9]>>[O:0]([O:1][C:2]([C:3]([O:4][H:11])([C:5]([O:6][O:7][H:14])([H:12])[H:13])[H:10])[H:9])[H:8],81.46248
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[C:17]([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][C:17]([H:18])([H:19])[H:20],29.932336
[N:0]([N:1]([H:3])[H:4])[H:2].[O:5][O:6][H:7]>>[H:3][O:5][O:6][H:7].[N:0](=[N:1][H:4])[H:2],-6.6944
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:8])([H:9])[H:10])[C:13]([C:12](=[C:11]([H:15])[H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18])[H:7])([H:5])[H:6],50.3335
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([S:16][H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:20])[H:8])([H:6])[H:7].[C:15]([S:16])([H:17])([H:18])[H:19],53.1368
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:19][O:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:18][O:19][O:20],140.74976
